US06444685B1
N-Butyl-4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonamide
The title compound was prepared from N-[5-((1R)-2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide and Reference Example 11, N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide, according to the procedure of Example 1 as a white solid; mp 71-75° C.; 1H NMR (300 MHz, DMSO-d6) δ 0.80 (t, 3H), 1.10-1.40 (m, 6H), 1.80-1.95 (m, 2H), 2.50-2.90 (m, 5H), 2.92 (s, 3H), 3.70-3.90 (m, 2H), 4.45-4.55 (m, 1H), 6.82 (d, 1H), 7.02 (d, 3H), 7.02 (d, 3H), 7.19 (d, 1H), 7.54 (d, 2H); MS (ES) m/z: 541.0 (MH+); HRMS Calcd. for C24H37N4O6S2 (MH+): 541.2155. Found: 541.2136.

reactant | N-[5-((1R)-2-Amino-1-hydroxy-ethyl)-2-hydroxy-phenyl]-methanesulfonamide | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | N-butyl-4-(4-oxo-piperidin-1-yl)-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C15H22N2O3S
product | N-Butyl-4-{4-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-piperidin-1-yl}-benzenesulfonamide | C(CCC)NS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C24H36N4O6S2
